### PR TITLE
prove `modification_modification`

### PR DESCRIPTION
**Pull request by FredRaj3**

### CODE REVIEW

File: GibbsMeasure/Specification.lean [hunk 1]
```diff
@@ -326,9 +326,24 @@ lemma modification_apply (γ : Specification S E) (ρ : Finset S → (S → E) 
 
 @[simp] lemma modification_one (γ : Specification S E) : γ.modification 1 .one = γ := by ext; simp
 
+
```
Comment (YaelDillies) [inline GibbsMeasure/Specification.lean]:
```suggestion
```

File: GibbsMeasure/Specification.lean [hunk 2]
```diff
@@ -326,9 +326,24 @@ lemma modification_apply (γ : Specification S E) (ρ : Finset S → (S → E) 
...
+    rw[coe_modification, coe_modification, coe_modification]
+    simp[modificationKer]
+    funext σ
+    apply MeasureTheory.Measure.ext
+    intro s hs
+    rw[withDensity_apply, withDensity_apply]
+    rw[MeasureTheory.setLIntegral_withDensity_eq_setLIntegral_mul]
+    exact hρ₁.measurable Λ
+    exact hρ₂.1 Λ
+    exact hs; exact hs; exact hs
```
Comment (YaelDillies) [inline GibbsMeasure/Specification.lean]: Statements should indented by four spaces, proofs by only two

File: GibbsMeasure/Specification.lean [hunk 3]
```diff
@@ -326,9 +326,24 @@ lemma modification_apply (γ : Specification S E) (ρ : Finset S → (S → E) 
 
 @[simp] lemma modification_one (γ : Specification S E) : γ.modification 1 .one = γ := by ext; simp
 
+
 @[simp] lemma modification_modification (γ : Specification S E) (ρ₁ ρ₂ : Finset S → (S → E) → ℝ≥0∞)
     (hρ₁ : γ.IsModifier ρ₁) (hρ₂ : (γ.modification ρ₁ hρ₁).IsModifier ρ₂) :
-    (γ.modification ρ₁ hρ₁).modification ρ₂ hρ₂ = γ.modification (ρ₁ * ρ₂) (hρ₁.mul hρ₂) := sorry
+    (γ.modification ρ₁ hρ₁).modification ρ₂ hρ₂ = γ.modification (ρ₁ * ρ₂) (hρ₁.mul hρ₂) := by
+    apply ext
+    intro Λ
```
Comment (YaelDillies) [inline GibbsMeasure/Specification.lean]:
```suggestion
    ext Λ
```
works, hopefully?

File: GibbsMeasure/Specification.lean [hunk 4]
```diff
@@ -326,9 +326,24 @@ lemma modification_apply (γ : Specification S E) (ρ : Finset S → (S → E) 
...
+    rw[coe_modification, coe_modification, coe_modification]
+    simp[modificationKer]
```
Comment (YaelDillies) [inline GibbsMeasure/Specification.lean]:
```suggestion
    rw [coe_modification, coe_modification, coe_modification]
    simp [modificationKer]
```
Same below

File: GibbsMeasure/Specification.lean [hunk 5]
```diff
@@ -326,9 +326,24 @@ lemma modification_apply (γ : Specification S E) (ρ : Finset S → (S → E) 
...
+    funext σ
+    apply MeasureTheory.Measure.ext
+    intro s hs
```
Comment (YaelDillies) [inline GibbsMeasure/Specification.lean]:
```suggestion
    ext σ s hs
```

File: GibbsMeasure/Specification.lean (hunk 2 above)
Comment (YaelDillies) [inline GibbsMeasure/Specification.lean]:
```suggestion
    exacts [hρ₁.measurable Λ, hρ₂.1 Λ, hs, hs, hs]
```
is one solution. The better solution would be to feed these arguments where they are needed in the `rw`

File: GibbsMeasure/Specification.lean [hunk 6]
```diff
@@ -326,9 +326,24 @@ lemma modification_apply (γ : Specification S E) (ρ : Finset S → (S → E) 
...
+    rw[withDensity_apply, withDensity_apply]
+    rw[MeasureTheory.setLIntegral_withDensity_eq_setLIntegral_mul]
+    exact hρ₁.measurable Λ
+    exact hρ₂.1 Λ
+    exact hs; exact hs; exact hs
+
+
```
Comment (YaelDillies) [inline GibbsMeasure/Specification.lean]:
```suggestion

```

**Review by YaelDillies — COMMENTED** [review]
Thanks!

File: GibbsMeasure/Specification.lean (hunk 3 above)
Comment (FredRaj3) [reply GibbsMeasure/Specification.lean]: Tried this and didn't work, but otherwise changed the other ones

**Comment by FredRaj3** [comment]
Made changes, one suggestion didn't work but otherwise made the updates

File: GibbsMeasure/Specification.lean (hunk 3 above)
Comment (YanYablonovskiy) [reply GibbsMeasure/Specification.lean]: I think this might be because of what we saw earlier, that the structure isn't tagged with ext the usual way? Should we change it or is there a reason we have ext seperate?

**Comment by YaelDillies** [comment]
Thanks! and sorry for the wait 🥾

**Review by YaelDillies — APPROVED** [review]
Thanks! and sorry for the wait 🥾
